US09193724B2
Step A. N-(4-chloropyridin-2-yl)-5-fluoro-4-methylpyridine-3-carboximidamide
Potassium bis(trimethylsilyl)amide (1.0 M, 4.1 mL, 0.0041 mol) was added slowly for a period of 5 min to a solution of 4-chloro pyridin-2-amine (0.35 g, 0.00273 mol) in anhydrous tetrahydrofuran (30 mL) at 0° C. and stirred for 15 min at same temperature. Then 4-methyl-5-fluoronicotinonitrile (0.37 g, 0.00273 mol) in tetrahydrofuran (5 mL) was added. The reaction temperature was raised to RT and the reaction mixture was stirred it for 18 h. The reaction mixture was quenched with a saturated aqueous ammonium chloride solution (30 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over sodium sulphate and concentrated under vacuum to afford the crude product, which was purified by silica gel column chromatography to afford the title compounds. 1H NMR (400 MHz, CDCl3) δ 10.60 (bs, 1H), 8.53 (s, 1H), 8.43 (s, 1H), 8.25-8.24 (d, J=4 Hz, 1H), 7.25-7.24 (d, J=4 Hz, 1H), 7.02-7.00 (d, J=4 Hz, 1H), 2.48 (s, 3H), MS (M+1): 265.1.

reactant | Potassium bis(trimethylsilyl)amide | 0.0041 mol, 1.0 M, 4.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro pyridin-2-amine | 0.00273 mol, 0.35 g | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | 4-methyl-5-fluoronicotinonitrile | 0.00273 mol, 0.37 g | CC1=C(C=NC=C1C#N)F | C7H5FN2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-(4-chloropyridin-2-yl)-5-fluoro-4-methylpyridine-3-carboximidamide | ClC1=CC(=NC=C1)NC(=N)C=1C=NC=C(C1C)F | C12H10ClFN4
